US07459556B2
Step 1: Bis(2-chlorophenyl)methanol
Under N2, 1-chloro-2-iodobenzene (40 ml, 0.33 mol) was dissolved in THF (360 ml) and cooled to −10 to −15° C. Within 30 min, a 1M solution of ethyl magnesium bromide (344 ml, 0.34 mol) in TBME was added at this temperature. The mixture was stirred at −10 to −15° C. and the reaction was followed by HPLC. After the reaction was complete (15 to 30 min), a solution of 2-chloro benzaldehyde (40.7 ml, 0.36 mol) in TBME (160 ml) was added at −10 to −15° C. within 30 min and the reaction was followed by HPLC. After complete reaction (15 to 30 min), the mixture was hydrolized with dilute HCl until all solids were dissolved at a final temperature of 20 to 25° C. The organic phase was washed with water (2×40 ml) and evaporated to dryness at a temperature of 45 to 50° C. The residue was co-evaporated twice with heptane (80 ml each) and crystallized from hot n-heptane (280 ml at 95 to 100° C.). The product was isolated by filtration after stirring for 1 h at 0 to 5° C. and washed with cold n-heptane (40 ml at 0 to 5° C.). The product was dried under vacuum at 50° C. to constant weight. Yield: 73.4 g (88%). Assay (HPLC): 100% pure vs. standard.

reactant | 1-chloro-2-iodobenzene | 0.33 mol, 40 ml | ClC1=C(C=CC=C1)I | C6H4ClI
reactant | ethyl magnesium bromide | 0.34 mol, 344 ml | C(C)[Mg]Br
reactant | 2-chloro benzaldehyde | 0.36 mol, 40.7 ml | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | HCl | Cl | ClH
solvent | THF | 360 ml | C1CCOC1 | C4H8O
solvent | TBME | CC(C)(C)OC | C5H12O
solvent | TBME | 160 ml | CC(C)(C)OC | C5H12O
product | Bis(2-chlorophenyl)methanol | ClC1=C(C=CC=C1)C(O)C1=C(C=CC=C1)Cl | C13H10Cl2O
